### PR TITLE
[Merged by Bors] - feat: more lemmas about `{Setoid,Con,AddCon,RingCon}.comap`

### PR DESCRIPTION
**Pull request by eric-wieser**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 1]
```diff
@@ -701,6 +701,10 @@ theorem toNonUnitalRingHom_eq_coe (f : R ≃+* S) : f.toNonUnitalRingHom = ↑f
 theorem coe_toNonUnitalRingHom (f : R ≃+* S) : ⇑(f : R →ₙ+* S) = f :=
   rfl
 
+-- TODO: make this `simp`
+theorem coe_toNonUnitalRingHom' (f : R ≃+* S) : ⇑f.toNonUnitalRingHom = f :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/Equiv.lean:706]: #40698

File: Mathlib/Data/Setoid/Basic.lean [hunk 2]
```diff
@@ -38,7 +38,7 @@ attribute [refl, simp] Setoid.refl
 attribute [symm] Setoid.symm
 attribute [trans] Setoid.trans
 
-variable {α : Type*} {β : Type*}
+variable {α : Type*} {β : Type*} {γ : Type*}
```
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Basic.lean]:
```suggestion
variable {α β γ : Type*}
```

File: Mathlib/Data/Setoid/Basic.lean [hunk 3]
```diff
@@ -189,11 +191,11 @@ instance completeLattice : CompleteLattice (Setoid α) :=
     bot := ⟨(· = ·), ⟨fun _ => rfl, fun h => h.symm, fun h1 h2 => h1.trans h2⟩⟩
     bot_le := fun r x _ h => h ▸ r.2.1 x }
 
-@[simp]
+@[simp, grind =]
 theorem top_def : ⇑(⊤ : Setoid α) = ⊤ :=
```
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Basic.lean:195]: Pre-existing but surely this should be
```suggestion
theorem coe_top : ⇑(⊤ : Setoid α) = ⊤ :=
```
?

File: Mathlib/Data/Setoid/Basic.lean [hunk 4]
```diff
@@ -420,6 +440,9 @@ See note [reducible non-instances]. -/
 abbrev comap (f : α → β) (r : Setoid β) : Setoid α :=
   ⟨r on f, r.iseqv.comap _⟩
 
+theorem comap_rel_eq (f : α → β) (r : Setoid β) : ⇑(comap f r) = (⇑r on f) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Basic.lean:443]:
```suggestion
theorem coe_comap (f : α → β) (r : Setoid β) : ⇑(comap f r) = (⇑r on f) :=
```
no?

File: Mathlib/Data/Setoid/Basic.lean [hunk 5]
```diff
@@ -428,6 +451,34 @@ induced on `α` by `f` equals the kernel of `r`'s quotient map composed with `f`
...
+  rfl
+
+theorem comap_injective (f : α → β) (hf : Function.Surjective f) :
+    Function.Injective (comap f) :=
+  fun _ _ h => ext <| hf.forall₂.2 <| Setoid.ext_iff.1 h
+
+theorem le_comap_map {r : Setoid α} {f : α → β} : r ≤ comap f (r.map f) :=
+  fun _ _ h => Relation.EqvGen.rel _ _ ⟨_, _, h, rfl, rfl⟩
+
+theorem comap_map_eq (f : α → β) (r : Setoid α) (hf : ker f ≤ r) :
```
Comment (YaelDillies) [inline Mathlib/Data/Setoid/Basic.lean]:
```suggestion
theorem comap_map_of_ker_le (f : α → β) (r : Setoid α) (hf : ker f ≤ r) :
```
for consistency with your earlier lemma?

File: Mathlib/GroupTheory/Congruence/Hom.lean [hunk 6]
```diff
@@ -40,7 +40,6 @@ namespace Con
 section Mul
 variable {F} [Mul M] [Mul N] [Mul P] [FunLike F M N] [MulHomClass F M N]
 
-
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Congruence/Hom.lean:43]: Correct but out of scope?

File: Mathlib/Data/Setoid/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Setoid/Basic.lean:443]: I think there is precedent for using `rel` for the coercion, partly because originally we had a `rel` def

File: Mathlib/Data/Setoid/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Setoid/Basic.lean]: I think I w trying to be consistent with the set lemmas, but probably failed

File: Mathlib/Data/Setoid/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Data/Setoid/Basic.lean:443]: Ah. But we agree this is debt then? Happy to punt over for now

File: Mathlib/GroupTheory/Congruence/Hom.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/Congruence/Hom.lean:43]: #40719

File: Mathlib/Data/Setoid/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Setoid/Basic.lean:195]: or `rel_top`? I think better to declare this out of scope and do a cleanup pass later, since this PR is more about filling API gaps than tidying existing API.

File: Mathlib/Data/Setoid/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/Setoid/Basic.lean:443]: There is certainly debt here.

File: Mathlib/Data/Setoid/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Data/Setoid/Basic.lean]: Done.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
